* D:\UTN\TC2\TC2\Ejercicio 4\OTA2.asc
V1 N001 0 AC 1
A1 N002 0 P001 0 0 0 N002 0 OTA Vlow=-1
R1 P001 P002 10
V2 P002 0 200µ
Xx5 N001 N002 N001 N002 otadif params: gm=200u

* block symbol definitions
.subckt otadif V+ V- Io- Io+
G1 Io- Io+ V+ V- {gm}
C1 Io- Io+ 0.25p
R1 Io- Io+ 5Meg
C2 V+ v2 0.1p
.ends otadif

* gm2
* >
* Ib
.ac dec 100 10 100k
.backanno
.end
